US04192871
6β-Methyl-5α-pregnane-3,11,20-trione
6-Methylpregna-4,6-diene-3,11,20-trione (1.7 g) in ethyl acetate (100 ml) was hydrogenated at atmospheric pressure using 10% palladium on charcoal (500 mg) as catalyst. The catalyst was filtered off and the filtrate evaporated. Crystallisation of the residue from acetonepetroleum ether (b.p. 60°-80°) gave the title compound (720 mg), m.p. 174°-176°, [α]D +106°.

reactant | 6-Methylpregna-4,6-diene-3,11,20-trione | 1.7 g | CC1=C[C@H]2[C@@H]3CC[C@H](C(C)=O)[C@]3(CC([C@@H]2[C@]2(CCC(C=C12)=O)C)=O)C | C22H28O3
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium on charcoal | 500 mg | [Pd] | Pd
product | 6β-Methyl-5α-pregnane-3,11,20-trione | 720 mg | C[C@@H]1C[C@H]2[C@@H]3CC[C@H](C(C)=O)[C@]3(CC([C@@H]2[C@]2(CCC(C[C@H]12)=O)C)=O)C | C22H32O3
